US05998424
2-Amino-4-phenyl-5-carboethoxythiazole
To a solution of ethyl 3-phenyl-3-oxopropionate (5.0 g, 26.0 mmol) in 100 mL of acetonitrile was added hydroxy(tosyloxy)iodobenzene (11.2 g, 28.6 mmol) . The resulting suspension was stirred at 65° C. for 1 h at which time the reaction was a homogeneous solution. Thiourea (2.2 g, 28.6 mmol) was added and stirring was continued at 65° C. for 2 h. The mixture was cooled and concentrated, and the residue was taken up in ethyl acetate, washed with saturated aq Na2CO3 and brine, dried (MgSO4) and concentrated. The residue was triturated with ethyl ether to afford 4.9 g (70%) of the title compound as a yellow solid. 1H NMR (CDCl3) d 7.65 (m, 2H), 7.39 (m, 3H), 5.98 (broad s, 2H), 4.18 (q, 2H), 1.22 (t, 3H).

reactant | ethyl 3-phenyl-3-oxopropionate | 26.0 mmol, 5.0 g | C1(=CC=CC=C1)C(CC(=O)OCC)=O | C11H12O3
reactant | hydroxy(tosyloxy)iodobenzene | 28.6 mmol, 11.2 g | OC=1C(=C(C=CC1)I)OS(=O)(=O)C1=CC=C(C)C=C1 | C13H11IO4S
reactant | Thiourea | 28.6 mmol, 2.2 g | NC(=S)N | CH4N2S
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-Amino-4-phenyl-5-carboethoxythiazole | 4.9 g, 70% | NC=1SC(=C(N1)C1=CC=CC=C1)C(=O)OCC | C12H12N2O2S
